US07026518B2
5-[(1E)-2-(5-Bromo-3,4-dihydroxyphenyl)vinyl]-benzene1,2,3-triol, 2
Demethylation: The 1-(5-bromo-3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene (1.3 g) on demethylation with pyridine hydrochloride (7 g) under the conditions noted in example 1 gave 2, m.p. 148° C.; IR (KBr) νmax 3450, 1610, 1536, 1461, 1431, 1340, 1291, 1191, 1038, 997, 954, 842, 799 cm−1; 1H NMR (DMSO-d6, 400 MHz) δ 9.81 (1H, s), 9.21 (1H, s), 8.88 (2H, s), 8.30 (1H, s), 7.13 (1H, s), 6.93 (1H, s), 6.72 (1H, d, J=16.2 Hz), 6.64 (1H, d, J=16.2 Hz), 6.47 (2H, s).

reactant | 1-(5-bromo-3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene | 1.3 g | BrC=1C(=C(C=C(C1)C=CC1=CC(=C(C(=C1)OC)OC)OC)OC)OC | C19H21BrO5
reactant | pyridine hydrochloride | 7 g | Cl.N1=CC=CC=C1
reactant | KBr | [K+].[Br-]
product | 5-[(1E)-2-(5-Bromo-3,4-dihydroxyphenyl)vinyl]-benzene1,2,3-triol | BrC=1C(=C(C=C(C1)/C=C/C=1C=C(C(=C(C1)O)O)O)O)O | C14H11BrO5
